US04866078
Potassium carbonate (36 g, 0.26 mol) was added to a stirred mixture of 3,5-dichloro-4-fluorobenzoic acid (27.6 g, 0.13 mol), ethyl iodide (41.2 g- 0.26 moles) and dry dimethylformamide (300 ml) under nitrogen. The reaction was heated to 80° C. for 6 hours. The dimethylformamide was removed in vacuo and the residue treated with water (200 ml) acidified with dilute hydrochloric acid and extracted with ethylacetate (2×250 ml). The organic layer was washed with water, dried over magnesium sulphate and evaporated in vacuo, to give an orange oil which was purified by chromatography on silica, using a 4:1 mixture of petrol and diethylether as eluent. The pink oil obtained crystallised on standing, and washing with ice-cold 40-60 petrol gave white crystals of ethyl 3,5-dichloro-4-fluorobenzoate (29 g).

reactant | Potassium carbonate | 0.26 mol, 36 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,5-dichloro-4-fluorobenzoic acid | 0.13 mol, 27.6 g | ClC=1C=C(C(=O)O)C=C(C1F)Cl | C7H3Cl2FO2
reactant | ethyl iodide | C(C)I | C2H5I
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | ethyl 3,5-dichloro-4-fluorobenzoate | 29 g | ClC=1C=C(C(=O)OCC)C=C(C1F)Cl | C9H7Cl2FO2
